US06133319
e) Preparation of trans-N-(2-benzyloxycyclohexyl)-N'-(2-hydroxy-4-nitrophenyl)urea
To a solution of trans-N-(2-Benzyloxycyclohexyl)-N'-(2-tert-butyldimethylsilyloxy-4-nitrophenyl) urea (100 mg, 0.2 mmol) in acetonitrile (2 mL), triethylamine hydrofluoride (0.1 mL, 0.6 mmol) was added. The reaction mixture was stirred at room temperature for 30 minutes. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to give product (73 mg, 95%). EI-MS m/z 386 (M+H)+.

reactant | trans-N-(2-Benzyloxycyclohexyl)-N'-(2-tert-butyldimethylsilyloxy-4-nitrophenyl) urea | 0.2 mmol, 100 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](CCCC1)NC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O[Si](C)(C)C(C)(C)C | C26H37N3O5Si
reactant | triethylamine hydrofluoride | 0.6 mmol, 0.1 mL | F.C(C)N(CC)CC
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | trans-N-(2-benzyloxycyclohexyl)-N'-(2-hydroxy-4-nitrophenyl)urea | 73 mg, 95% | C(C1=CC=CC=C1)O[C@H]1[C@@H](CCCC1)NC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O | C20H23N3O5
